US07842828B2
672 g (2.7 mol) of dibutyltin oxide (made by Sankyo Organic Chemicals Co., Ltd., Japan) and 1900 g (21.5 mol) of 3-methyl-1-butanol (made by Kuraray Co., Ltd, Japan) were put into a 3000 mL flask. The flask containing the mixture, which was a white slurry, was attached to an evaporator (R-144, made by Sibata, Japan) having a temperature regulator-equipped oil bath (OBH-24, made by Masuda Corporation, Japan), a vacuum pump (G-50A, made by Ulvac, Japan) and a vacuum controller (VC-10S, made by Okano Works Ltd., Japan) connected thereto. The outlet of a purge valve of the evaporator was connected to a line for nitrogen gas flowing at normal pressure. The purge valve of the evaporator was closed, and the pressure in the system was reduced, and then the purge valve was gradually opened, so as to pass nitrogen into the system, and thus return the system to normal pressure. The oil bath temperature was set to approximately 145° C., and the flask was immersed in the oil bath and rotation of the evaporator was commenced. With the purge valve of the evaporator left open, rotational agitation and heating were carried out for approximately 40 minutes at normal pressure, whereupon the liquid mixture boiled, and hence distilling off of water-containing 3-methyl-1-butanol began. This state was maintained for 7 hours, and then the purge valve was closed, and the pressure in the system was gradually reduced, and excess 3-methyl-1-butanol was distilled off with the pressure in the system at from 74 to 35 kPa. Once distillate stopped coming off, the flask was lifted out from the oil bath. The reaction liquid was a transparent liquid. After lifting the flask out from the oil bath, the purge valve was gradually opened, so as to return the pressure in the system to normal pressure. 880 g of reaction liquid was obtained in the flask. According to 119Sn-, 1H-, and 13C-NMR analysis results, the product 1,1,3,3-tetrabutyl-1,3-bis(3-methylbutyloxy)-distannoxane was obtained at a yield of 99% based on the dibutyltin oxide. The same procedure was repeated twelve times, thus obtaining a total of 10350 g of 1,1,3,3-tetrabutyl-1,3-bis(3-methylbutyloxy)-distannoxane.

reactant | dibutyltin oxide | 2.7 mol, 672 g | C(CCC)[Sn](CCCC)=O
reactant | 3-methyl-1-butanol | 21.5 mol, 1900 g | CC(CCO)C | C5H12O
product | 1,1,3,3-tetrabutyl-1,3-bis(3-methylbutyloxy)-distannoxane | yield of 99% | C(CCC)[Sn](O[Sn](OCCC(C)C)(CCCC)CCCC)(OCCC(C)C)CCCC | InChI=1S/2C5H11O.4C4H9.O.2Sn/c2*1-5(2)3-4-6;4*1-3-4-2;;;/h2*5H,3-4H2,1-2H3;4*1,3-4H2,2H3;;;/q2*-1;;;;;;2*+1
